US06353111B1
A solution of triphenylphosphine (672 mg, 2.56 mmol) in methylene chloride (7.5 mL) was cooled to 0° C. and then treated with N-bromosuccinimide (456 mg, 2.56 mmol). The reaction mixture was stirred at 0° C. for 30 min and then treated with a solution of (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid (545.5 mg, 1.47 mmol) in methylene chloride (4 mL). The clear solution was stirred for 10 min at 0° C. and then allowed to warm to 25° C. where it was stirred for 1 h. The reaction mixture was then treated with 2-aminothiazole (378 mg, 3.76 mmol), and the resulting suspension was stirred at 25° C. over the weekend. The reaction mixture was concentrated in vacuo to remove methylene chloride, and the residue was diluted with ethyl acetate (75 mL) and a 1N aqueous hydrochloric acid solution (100 mL). The two layers were separated, and the aqueous layer was extracted with ethyl acetate (1×50 mL). The combined organic extracts were successively washed with a saturated aqueous sodium bicarbonate solution (2×50 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40M, Silica, 4/1 to 1/1 hexanes/ethyl acetate) afforded (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid thiazol-2-ylamide (200 mg, 35%) as a white solid: mp 173-176° C.; EI-HRMS m/e calcd for C19H22N2O3S2 (M+) 390.1071, found 390.1072.

reactant | triphenylphosphine | 2.56 mmol, 672 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 2.56 mmol, 456 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid | 1.47 mmol, 545.5 mg | C1(CCCC1)C/C=C(/C(=O)O)\C1=CC=C(C=C1)S(=O)(=O)C | C16H20O4S
reactant | 2-aminothiazole | 3.76 mmol, 378 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
product | (E)-4-cyclopentyl-2-(4-methanesulfonyl-phenyl)-but-2-enoic acid thiazol-2-ylamide | 200 mg, 35% | S1C(=NC=C1)NC(\C(=C\CC1CCCC1)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C19H22N2O3S2
